US06506797B1
Benzyl 5-acetoxymethyl-2-methoxybenzoate
Next, benzyl 5-hydroxymethyl-2-methoxybenzoate and 100 ml of methylene chloride were mixed and, after pyridine (660 ml, 8.16 mmol), acetic anhydride (460 ml, 4.88 mmol) and N,N-dimethylaminopyridine (25 mg, 0.205 mmol) were added under stirring and cooling with ice, the mixture was stirred overnight. The reaction mixture was washed with 1 mol/l hydrochloric acid, aqueous solution of sodium hydrogencarbonate and brine, then dried over anhydrous sodium sulfate and concentrated to obtain 1.27 g (99%) of the title compound as a colorless oil.

reactant | benzyl 5-hydroxymethyl-2-methoxybenzoate | OCC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C16H16O4
reactant | pyridine | 8.16 mmol, 660 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.88 mmol, 460 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 5-acetoxymethyl-2-methoxybenzoate | 1.27 g, 99% | C(C)(=O)OCC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C18H18O5
